US05665719
To a solution of 2-methoxy-(N-t-butyloxycarbonyl-4-piperidyloxy)benzoic acid (3.2 g; 9.1 mmol) from Step 3 of Example 25 in THF was added thionyl chloride (1 mL; 13.7 mmol) and pyridine (2 drops) while under a nitrogen atmosphere. The solution was stirred for 4 hours and then concentrated under reduced pressure to dryness. The residue was suspended in ether and filtered, and the filtrate was concentrated to dryness to yield 2-methoxy-(N-t-butyloxycarbonyl-4-piperidyloxy)benzoyl chloride.

reactant | 2-methoxy-(N-t-butyloxycarbonyl-4-piperidyloxy)benzoic acid | 9.1 mmol, 3.2 g | COC1=C(C(=O)O)C=CC=C1OC1CCN(CC1)C(=O)OC(C)(C)C | C18H25NO6
reactant | thionyl chloride | 13.7 mmol, 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | C1CCOC1 | C4H8O
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
product | 2-methoxy-(N-t-butyloxycarbonyl-4-piperidyloxy)benzoyl chloride | COC1=C(C(=O)Cl)C=CC=C1OC1CCN(CC1)C(=O)OC(C)(C)C | C18H24ClNO5
